US09085555B2
B. (3-Acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid tert-butyl ester
To a solution of 1-(5-trifluoromethoxy-1H-indol-3-yl)-ethanone (0.50 g, 2.06 mmol) in CH3CN (10 mL) was added K2CO3 (0.313 g, 2.26 mmol) and tert-butyl 2-bromoacetate (0.334 mL, 2.26 mmol). The reaction mixture was stirred at 90° C. overnight. The reaction mixture was filtered, and the filtrate was diluted with CH2Cl2. The organics were washed with 1M aqueous HCl solution (5 mL) and saturated aqueous NaHCO3 solution (5 mL). The organic layer was dried (phase separator) and evaporated in vacuo to afford the title compound as a yellowish oil: MS: 358.0 [M+H]+; tR (HPLC conditions c): 5.66 min. The material thus obtained was used directly in the next step without further purification.

reactant | 1-(5-trifluoromethoxy-1H-indol-3-yl)-ethanone | 2.06 mmol, 0.50 g | FC(OC=1C=C2C(=CNC2=CC1)C(C)=O)(F)F | C11H8F3NO2
reactant | K2CO3 | 2.26 mmol, 0.313 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 2.26 mmol, 0.334 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (3-Acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OC(F)(F)F)C(C)=O)=O | C17H18F3NO4
